### PR TITLE
Add time and space cost model for weak call-by-value lambda calculus 

### PR DESCRIPTION
**Pull request by ZhuoZoeyChen**
Translation of Forster, Kunze and Roth's Coq formalisation, "The Weak Call-by-Value 𝜆-Calculus Is Reasonable for Both Time and Space", POPL 2020.

### CODE REVIEW

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 1]
```diff
@@ -0,0 +1,491 @@
...
+	∀l l' n.
+		LENGTH l ≤ n ⇒
+    	nth_error n (l++l') = nth_error (n-LENGTH l) l'
+Proof
+	Induct_on `n` >> rw[nth_error, EL, ADD1] >>
+    Induct_on `l` >> rw[nth_error, EL, ADD1] >>
+    first_x_assum drule >> rw[] >> metis_tac[nth_error, EL, ADD1]
+QED
+
+Inductive Forall:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:120]: Please rewrite to use ``EVERY`` instead, which this is a copy of.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 2]
```diff
@@ -0,0 +1,491 @@
...
+    MEM a (l ++ m) ⇒ MEM a l ∨ MEM a m
+Proof
+  Induct_on `l` >> rw[]
+QED
+
+(* ------------------
+	   Relations
+   ------------------ *)
+
+Definition rcomp:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:167]: Please use the relational composition already in `relationTheory`.  This is written with an infix capital O (`O`), or :
```
> relationTheory.O_DEF;
val it = ⊢ ∀R1 R2 x z. (R1 ∘ᵣ R2) x z ⇔ ∃y. R2 x y ∧ R1 y z: thm
```
Note though that the arguments are in the opposite order.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 3]
```diff
@@ -0,0 +1,491 @@
...
+		∀x. case (f x) of
+				SOME y => R x y
+			  | NONE   => ∀y. ¬(R x y)
+End
+
+Definition computable:
+	computable R = ∃f. stepFunction R f
+End
+
+Definition classical:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:190]: This is vacuous in (classical) HOL; please delete.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 4]
```diff
@@ -0,0 +1,491 @@
...
+	classical R = ∀s. reducible R s ∨ ¬(reducible R s)
+End
+
+Theorem computable_classical:
+	computable R ⇒ classical R
+Proof
+	rw[computable, classical, computable]
+QED
+
+Inductive Forall2:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:200]: This is `LIST_REL`.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 5]
```diff
@@ -0,0 +1,491 @@
...
+
+(* ------------------
+	      Numbers
+   ------------------ *)
+
+(*
+f applied to x for n times
+  f(f(....f(x))
+*)
+Definition it_def:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:329]: This is `FUNPOW`.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 6]
```diff
@@ -0,0 +1,491 @@
...
+(* ------------------
+	      ARS
+   ------------------ *)
+
+(*
+Takes in two arguments x z,
+  exists an intermidate y such that
+  R x y /\ S y z
+*)
+Definition rcomp:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:345]: This repeats earlier definition; and should be killed in favour of `O` anyway.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 7]
```diff
@@ -0,0 +1,491 @@
...
+		case Ps of
+			| [] => F
+			| P::Ps => (P ∧ noneHolds Ps) ∨ (¬P ∧ exactlyOneHolds Ps)
+End
+
+(* ------------------
+     Coq.Init.Logic
+   ------------------ *)
+
+Inductive eq:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:304]: Just use `(=)` instead of `eq`.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 8]
```diff
@@ -0,0 +1,491 @@
...
+(rcomp R) applied to eq for n times
+  rcomp R(rcomp R(...rcomp R eq))
+
+In english:
+  given two arguments x and z,
+    pow R n x z means
+      there are 'n' intermediate values 'y' such that
+        x R y1, y1 R y2, ..., y(n-1) R yn, yn eq z
+*)
+Definition pow:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:359]: This is `NRC`.

File: examples/lambda/wcbv-reasonable/LScript.sml [hunk 9]
```diff
@@ -0,0 +1,576 @@
...
+			| dV x => 1 + x
+			| dABS s => 1 + (size s)
+			| dAPP s t => 1 + size s + size t
+End
+
+(* --------------------------------
+	  Substitution and Closedness
+   -------------------------------- *)
+
+Definition subst:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/LScript.sml:30]: This is the `sub` function from `pure_dB` with the arguments in a different order.  If you don't want to edit all the occurrences, use an overload to make `subst` an alias: 
```
Overload subst = “\s k u. sub u k s”
```

File: examples/lambda/wcbv-reasonable/LScript.sml [hunk 10]
```diff
@@ -0,0 +1,576 @@
+(* See:
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/LScript.sml:1]: Please give this theory a better name than just `L`

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml [hunk 11]
```diff
@@ -0,0 +1,491 @@
...
+  >> `∃s' m'.
+        step s s' ∧ redWithMaxSize size step m' s' u ∧
+        MAX (MAX (size s) m1') m2 = MAX (size s) m'` suffices_by simp[] >>
+  qexistsl_tac [`s'`, `MAX m1' m2`] >> rw[]
+  >- (rw[Once redWithMaxSize_cases] >> metis_tac[])
+  >> `MAX (MAX (size s) m1') m2 = MAX (size s) (MAX m1' m2)` suffices_by simp[] >>
+  rw[MAX_ASSOC]
+QED
+
+val _ = export_theory ()
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/PrelimsScript.sml:491]: Please add newline to end of file.

File: examples/lambda/wcbv-reasonable/ProgramsScript.sml [hunk 12]
```diff
@@ -0,0 +1,234 @@
...
+Proof
+  rw[] >>
+  `decompile 0 (compile s++[]) [] = decompile 0 [] (s::[])`
+    by metis_tac[decompile_correct'] >>
+  `decompile 0 (compile s'++[]) [] = decompile 0 [] (s'::[])`
+    by metis_tac[decompile_correct'] >>
+  gs[] >> fs[Once decompile] >> fs[Once decompile]
+QED
+
+val _ = export_theory ()
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/ProgramsScript.sml:234]: Newline here please.

File: examples/lambda/wcbv-reasonable/LScript.sml [hunk 13]
```diff
@@ -0,0 +1,576 @@
...
+
+Theorem spaceBS_correct:
+  ∀s t m.
+    spaceBS m s t ⇔
+      redWithMaxSizeL m s t ∧ lambda t
+Proof
+  metis_tac[spaceBS_correctL, spaceBS_correctR]
+QED
+
+val _ = export_theory ()
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/LScript.sml:576]: Newline here please.

File: examples/lambda/wcbv-reasonable/AbstractSubstMachineScript.sml [hunk 14]
```diff
@@ -0,0 +1,767 @@
...
+      redWithMaxSizeS m' (init s) ([],[P]) ∧
+      m ≤ m' ∧
+      m' ≤ 2 * m
+Proof
+  rw[] >> drule correctSpace' >>
+  rw[init] >> first_x_assum (qspecl_then [`[]`, `[]`, `[]`] ASSUME_TAC) >>
+  fs[tc] >> metis_tac[]
+QED
+
+val _ = export_theory ()
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/AbstractSubstMachineScript.sml:767]: newline at EOF please

File: examples/lambda/wcbv-reasonable/Holmakefile [hunk 15]
```diff
@@ -0,0 +1 @@
+INCLUDES = $(HOLDIR)/examples/lambda/other-models
```
Comment (mn200) [inline examples/lambda/wcbv-reasonable/Holmakefile:1]: newline at EOF please

**Review by mn200 — CHANGES_REQUESTED** [review]

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml (hunk 1 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/PrelimsScript.sml:120]: Done - removed `Forall` and all the related lemmas since they're not used in the later proofs.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml (hunk 3 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/PrelimsScript.sml:190]: Done - deleted

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml (hunk 4 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/PrelimsScript.sml:200]: Similar to `Forall`. Done - removed `Forall2` and all the related lemmas since they're not used in the later proofs.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml (hunk 11 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/PrelimsScript.sml:491]: Done - added

File: examples/lambda/wcbv-reasonable/ProgramsScript.sml (hunk 12 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/ProgramsScript.sml:234]: Done - added

File: examples/lambda/wcbv-reasonable/LScript.sml (hunk 13 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/LScript.sml:576]: Done - added

File: examples/lambda/wcbv-reasonable/AbstractSubstMachineScript.sml (hunk 14 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/AbstractSubstMachineScript.sml:767]: Done - added

File: examples/lambda/wcbv-reasonable/Holmakefile (hunk 15 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/Holmakefile:1]: Done - added

File: examples/lambda/wcbv-reasonable/LScript.sml (hunk 10 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/LScript.sml:1]: Might use the name `WCBVLC` or `WCBV` instead of `L`.

Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/LScript.sml:1]: Or `weak_CBV`?

Comment (mn200) [reply examples/lambda/wcbv-reasonable/LScript.sml:1]: `weak_CBV` sounds good.

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml (hunk 2 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/PrelimsScript.sml:167]: Done

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml (hunk 7 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/PrelimsScript.sml:304]: Done

File: examples/lambda/wcbv-reasonable/PrelimsScript.sml (hunk 8 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/PrelimsScript.sml:359]: Done

File: examples/lambda/wcbv-reasonable/LScript.sml (hunk 9 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/LScript.sml:30]: In progress, finishing soon.. Note that `sub` from `pure_dB` allows open terms, whilst `subst` assumes closed terms, their definitions are actually of different natures (different lifting methods). I'm adding assumptions for terms being closed in the correctness proofs for time and space models in order to prove these theorems using `sub`.

Comment (mn200) [reply examples/lambda/wcbv-reasonable/LScript.sml:30]: Apologies, you're quite right.  If the terms are always closed, then you have that `pure_dB$sub` is the same as this `subst` (as you say), but are there uses in the "correctness proofs" where the closed-ness isn't assumed?  That sounds weird: the result of such a substitution with `subst` is not a reasonable term at all.

**Comment by mn200** [comment]
If you push to this branch your fixes work will be visible here.

File: examples/lambda/wcbv-reasonable/LScript.sml (hunk 9 above)
Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/LScript.sml:37]: The original Coq proof does have the closed term assumption for the final proof for the time cost model for the heap machine but didn't include this assumption in the lemmas used by this final proof nor in the other models (i.e. the time cost model for the substitution machine and the space cost models for the substitution and the heap machines).

Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/LScript.sml:35]: Finished fixing all the main correctness proofs for both cost models for both machines! Left out some lemmas that require closed term assumptions but are not used in any of the later proofs for now (they are inside LScript, related to bound and closed).

Comment (ZhuoZoeyChen) [reply examples/lambda/wcbv-reasonable/LScript.sml:35]: Will look at these lemmas tomorrow.. shouldn't be too hard to fix, I hope.

**Comment by ZhuoZoeyChen** [comment]
Wait I made a mistake.. the space cost model for substitution machine does require closed term assumption. Fixing it now.

**Comment by ZhuoZoeyChen** [comment]
Fixed :D

File: examples/lambda/wcbv-reasonable/LScript.sml (hunk 10 above)
Comment (mn200) [reply examples/lambda/wcbv-reasonable/LScript.sml:1]: You need to Holmake either `cleanDeps` or `cleanAll` to purge old files that still think `LScript` is a thing.

**Comment by mn200** [comment]
This feels as if it's super close! I'm looking forward to it.  

As a last thing to do, please check with a 
```
build -t
```
that there aren't TABs or any trailing whitespace.

**Comment by ZhuoZoeyChen** [comment]
> This feels as if it's super close! I'm looking forward to it.
> 
> As a last thing to do, please check with a
> 
> ```
> build -t
> ```
> 
> that there aren't TABs or any trailing whitespace.

I used it and it shows "Hol built successfully." in the end. Does that mean this pull request is good to go? :D

**Comment by mn200** [comment]
Thanks for all you've done for this!
